US09102669B2
In a two-neck flask was placed 8-(6-chloropyridazin-3-yl)-1,4-dioxa-8-azaspiro[4.5]decane, prepared as in STEP 1 above (3.07 g, 12 mmol), 1-methylpyrazole-4-boronic acid pinacol ester (3.24 g, 15.6 mmol), K2CO3 (6.62 g, 48 mmol), and Pd(PPh3)4 (693 mg, 0.6 mmol). The resulting mixture was degassed and refilled with N2 (3 times). 1,4-Dioxane/H2O (15 mL/5 mL) was added and the resulting mixture was heated at 100° C. for 4 h. The resulting mixture was then poured into EtOAc/H2O (100 mL/100 mL). The organic layer was washed with brine (100 mL), dried (Na2SO4), and filtered. The solvent was removed by roto-evaporator and the resulting residue purified by column using EtOAc as the eluent to yield 8-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)-1,4-dioxa-8-azaspiro[4.5]decane.

reactant | 8-(6-chloropyridazin-3-yl)-1,4-dioxa-8-azaspiro[4.5]decane | ClC1=CC=C(N=N1)N1CCC2(OCCO2)CC1 | C11H14ClN3O2
reactant | 1-methylpyrazole-4-boronic acid pinacol ester | 15.6 mmol, 3.24 g | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | K2CO3 | 48 mmol, 6.62 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.6 mmol, 693 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)-1,4-dioxa-8-azaspiro[4.5]decane | CN1N=CC(=C1)C1=CC=C(N=N1)N1CCC2(OCCO2)CC1 | C15H19N5O2
